US05399703
Step 6 2-[3-(2-Nitrophenoxy)phenoxy]propionitrile
In a mixture of 12 ml of pyridine and 35 ml of dioxane was suspended 4.55 g of 2-[3-(2-nitrophenoxy)phenoxy]propionamide and, then, 3.6 g of trifluoroacetic anhydride was added dropwise with ice-cooling and stirring. The mixture was then stirred at that temperature for 30 minutes and, following addition of ice-water, extracted with ether. The ether extract was washed with diluted hydrochloric acid and sodium hydrogen carbonate solution in that order, dried and concentrated to give 4.3 g of the title compound as a light yellow oil.

reactant | 2-[3-(2-nitrophenoxy)phenoxy]propionamide | 4.55 g | [N+](=O)([O-])C1=C(OC=2C=C(OC(C(=O)N)C)C=CC2)C=CC=C1 | C15H14N2O5
reactant | trifluoroacetic anhydride | 3.6 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
product | 2-[3-(2-Nitrophenoxy)phenoxy]propionitrile | 4.3 g | [N+](=O)([O-])C1=C(OC=2C=C(OC(C#N)C)C=CC2)C=CC=C1 | C15H12N2O4
